US07057042B2
1-[(5-chloro-1-benzothien-3-yl)methyl]-4-(2-pyridinyl)piperazine
3-(Bromomethyl)-5-chloro-1-benzothiophene and 1-(2-pyridinyl)piperazine were processed as described in Example 2 to provide the title compound. 1H NMR (d6-DMSO, 300 MHz) δ 3.15 (m, 2H), 3.49 (m, 6H), 3.75 (s, 2H), 6.61 (dd, 1H, J=7.5, 4.5 Hz), 6.80 (d, 1H, J=8.7 Hz), 7.40 (dd, 1H, J=8.7, 1.5), 7.52 (m, 1H), 7.70 (s, 1H), 8.00 (d, 1H, J=8.7 Hz), 8.08 (m, 2H). MS (DCI/NH3) m/z 344.0 (M+H)+. Anal. Calcd for C18H18N3SCl: C, 62.87; H, 5.28; N, 12.22. Found: C, 62.71; H, 5.23; N, 12.26.

reactant | 3-(Bromomethyl)-5-chloro-1-benzothiophene | BrCC1=CSC2=C1C=C(C=C2)Cl | C9H6BrClS
reactant | 1-(2-pyridinyl)piperazine | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
product | 1-[(5-chloro-1-benzothien-3-yl)methyl]-4-(2-pyridinyl)piperazine | ClC=1C=CC2=C(C(=CS2)CN2CCN(CC2)C2=NC=CC=C2)C1 | C18H18ClN3S
